US05475008
2-Amino-4-chlorobenzyl alcohol (3 g, 19.29 mmol) and cyanoacetic acid (3.61 g, 42.44 mmol) were reacted in a similar manner as described in Example 1 to give 0.63 g of 7-chloro-3-cyano-2(1H)-quinolone. mp 306°-309° C. This nitrile (0.46 g) was dissolved in 1-methylpyrrolidinone and treated with triethylammonium hydrochloride (0.465 g) and sodium azide (0.44 g). The reaction was heated to 140° C. for 1 h, cooled, acidified (HCl), and extracted with ethyl acetate (2×). The combined organic phases were extracted into dilute sodium hydroxide (2×) and washed with diethyl ether. The aqueous layer was acidified and the precipitate which formed was extracted into ethyl acetate (3×). The combined organic phases were washed with water and then evaporated to give the title compound as a powdered brown solid; mp 327° C. (dec) (DMF, acetone, water). (Found: C, 48.61; H, 2.47.C10H6ClN5O requires C, 48.50; H, 2.44%); δH (360 MHz, DMSO-d6) 7.36 (1H, d, dd, J=8.4 and 2.0 Hz, 6-H), 7.44 (1H, d, J=2.0 Hz), 8.01 (1H, d, J=8.4 Hz, 5-H), 8.98 (1H, s, 4-H), 12.3-12.7 (1H, vbr s, NH); m/z (EI+) 247 (M+).

reactant | 2-Amino-4-chlorobenzyl alcohol | 19.29 mmol, 3 g | NC1=C(CO)C=CC(=C1)Cl | C7H8ClNO
reactant | cyanoacetic acid | 42.44 mmol, 3.61 g | C(#N)CC(=O)O | C3H3NO2
product | 7-chloro-3-cyano-2(1H)-quinolone | 0.63 g | ClC1=CC=C2C=C(C(NC2=C1)=O)C#N | C10H5ClN2O
